Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Zithromax
 
Attending: ___.
 
Chief Complaint:
"I feel alone"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
As per Dr. ___ ___ resident accept note:

Per Dr. ___ ___ ED Initial Psychiatry Consult note:

"Ms. ___ is a ___ year old female, ___ at ___, with PPHx of 
reported depression and anxiety, without prior psychiatric 
hospitalizations, without history of SA/SIB, who was brought in 
to the ___ ED by ___ campus police after she expressed SI with 
plan while arguing with mother on the phone.
.
Ms. ___ reports talking to parents over the phone about 
concerns about being able to handle the rigors of her schedule 
this semester and being able to handle her "mental health" at 
the same time. This led to an argument with the parents and 
patient told them that she wanted to hurt herself, which led to
the parents being concerned and calling campus police. She 
reports thoughts of self-harm since ___ grade and suicide since 
___ grade. Since freshman year of college, thoughts of SI have 
worsened due to academic stress and ex-boyfriend's father having 
a heart attack during her freshman year of college. Then her SI 
improved, until recently, when the thoughts of SI escalated 
again ("I want the pain to stop"). She describes that it has 
been difficult to ignore the pain and the SI in the past several 
days. Has had thoughts of jumping in front of traffic or off a 
tall bridge, and continues to have these thoughts after coming 
to the ED. 
.
Patient reports recently breaking up with her boyfriend of ___ 
years, who was also her first boyfriend. This happened while 
patient was abroad doing "rigorous internships", which were also 
very stressful. Patient's group of friends were not in agreement 
with her relationship with her boyfriend, which also caused 
significant conflicts with her friends and even more stress. 
This
led to significant feelings of guilt, low self-esteem, 
worthlessness. Reports significantly depressed mood lately. 
Reports improved sleep since starting paroxetine several months 
ago, but recently has had increased anxiety about academic 
stress and relationship difficulties, which have made it more 
difficult to sleep. Reports feeling more tired and decreased 
motivation and
concentration, leading to struggles with homework. Reports that 
these symptoms have all been worsening in the past 3 weeks, 
since her break-up. Appetite has been okay.
.
Patient reports feeling like she does not have a good support 
system, only has one friend. Tried to reach out to other 
friends, but did not receive appropriate support from them. 
Similarly, he does not feel like she is adequately supported by 
he parents. She is interested in an inpatient hospitalization 
for medication adjustment, for improving her communication with 
her parents, and for establishing outpatient providers, which 
she currently does not have."
.
In the ED, patient was calm and cooperative. She reports she 
slept okay and was busy on her laptop watching movies and doing 
homework.
.
On interview today on arrival to ___ 4 at approximately 20:00 
Ms. ___ reports that she is feeling depressed ___ to social 
isolation and psychosocial stressors (recent breakup 3 weeks 
ago, problems w/ peers, stress of academic workload). Patient 
reports she was experiencing increasing stress regarding 
academic workload and reached out to friends for support. 
Friends were not
interested in helping and so she called parent's who per patient 
perspective, minimized her symptoms. Per patient she reported to 
parents that she "didn't want to be alive" which led parents to 
call ___ campus police. Patient endorses prominent feelings of 
isolation, recurrent thoughts of death, feelings of
worthlessness, and suicidal ideation with plans such as jumping 
into traffic or off building. Patient reports anxiety 
surrounding one of her recent classes including uncertainty of 
scheduling that is causing increased anxiety and concern for 
some avoidance behaviors. Patient reports she enjoys her major 
in ___ biology and recently returned from a summer internship 
diving in ___ doing research on the ___. Despite 
this she is questioning her major due to anxiety regarding the 
uncertainty of travel/weather in one of her required marine 
classes. Reports recent history of panic attack associated w/ a 
recent crash on her bicycle. Concern and uncertainty of possible 
physical trauma from the crash resulted in patient to have a 
"panic attack;" including tachycardia, sob, diaphoresis that led 
her to go the emergency room. Patient reports experiencing 
suicidal ideation in the past, most recently ___ years ago when 
she was standing in front of a train on the ___ and thought 
of jumping in front. Patient denies AVH, delusions, paranoia. 
REVIEW OF SYSTEMS:
+'s Per HPI
 -Psychiatric:
Denies grandiosity, increased activity, decreased need for 
sleep, or
talkativeness/pressured speech, auditory or visual 
hallucinations, or delusions of reference, paranoia, thought 
insertion/broadcasting/withdrawal.
.
 -General: 
+Folliculitis
+puritus related to insect bites from trip
+40 pound weight gain since starting paxil and Nexplanon
.
Denies fatigue, fever, chills, nightsweats, headache, focal 
numbness, focal weakness, changes in vision, cough, SOB, CP, 
palpitations, abdominal pain, nausea, vomiting, diarrhea, 
constipation, dysuria, joint pain, muscle pain, edema.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Reports depression and anxiety, but denies
formal diagnoses 
-Hospitalizations: Denies
-Partial hospitalizations: Denies
-Psychiatrist: Denies; Her PCP prescribes her medications
-Therapist: Has phone intake with a therapist (___) 
on ___.
-Medication trials: Paxil
-___ trials: Denies
-Suicide attempts: Denies
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Emotional trauma and cyberstalking from a male peer in
middle school and high school
.
PAST MEDICAL HISTORY:
No reported chronic medical problems 
 **PCP: Dr. ___ from ___ Medical Group
 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: 1 cup or less daily
-Alcohol: 1 drink per week; binge drinks ___ drinks once per 
month; Denies history of alcohol withdrawal, DTs, seizures.
-Marijuana: has tried edibles twice in her life
-Other Drugs: Denies
.
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
-no access to firearms
.
SOCIAL HISTORY:
-Born/Raised: ___; No siblings
-Relationship status/Children: Recently separated from 
boyfriend; No children
-Primary Supports: Boyfriend has been her support system 
recently, despite the break-up; Has a female friend who is also 
a support, but patient does not want to burden that friend too 
much
-___: Student housing, 5 roommates. Was living with 
boyfriend (now ex; broke up 3 weeks ago) for one month ___ 
over the summer.
-Education: Returned to school on ___. ___ at ___ 
studying ___. New class is stressful; requires going 
out on boat when weather permitting.
-Employment/Income: Works as a ___ for 5 hrs/week; 
also volunteers in a research lab on campus for 4 hrs/week
-Spiritual: Denies
-Military History: ___
Family History:
-Psychiatric Diagnoses: Anxiety on mother's side; no formal 
diagnoses in parents
-Substance Use Disorders: Paternal grand parents with alcohol 
use disorder; Paternal grandmother with prescription medication 
abuse
-Suicide Attempts/Completed Suicides: thinks someone in the 
family attempted suicide once, but does not know details
 
Physical Exam:
VITAL SIGNS:
24 HR Data (last updated ___ @ ___)
Temp: 97.7 (Tm 97.7), BP: 143/85, HR: 86, RR: 16, O2 sat: 98%, 
Wt: 227.6 lb/103.24 kg

General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
 oropharynx clear. No scleral icterus, 
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
 murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive. No
 tenderness to palpation. No guarding, no rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 3mm, equal, round
 ---III, IV, VI: EOMI without nystagmus
 ---V: sensation to light symmetric in V1, V2, V3
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: deferred
 ---IX, X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: deferred
 -DTRs: 2+ patellar, deltoid, brachioradialis
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation. Narrow-based, normal stride and arm
 swing.  

Absence of resting tremor, absence of action tremor

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 0 errors
 -Orientation: ___ ___, summer
 -Executive function (go-no go, Luria, trails, FAS): 
     absence of ideomotor apraxia: able to brush teeth, comb 
hair
 -Memory: Violet, Church, ___ after ___
 -Fund of knowledge: Consistent with education; intact to last 3
 presidents
 -Calculations: 1.10 = 22 nickels
 -Abstraction: deferred
 -Visuospatial: L thumb to R. ear
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance/Behavior:
     mildly overweight Caucasian female, sitting in chair,
dressed in hospital gown with scrub bottoms. good eye contact,
absence of psychomotor agitation. 
 -Attitude: Cooperative, engaged, friendly
 -Mood: "lonely"
 -Affect: euthymic, full range, appropriate to situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: SI+/ -HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: poor
 -Judgment: fair
 
Pertinent Results:
___ 12:04AM BLOOD WBC-12.2* RBC-4.60 Hgb-13.6 Hct-40.6 
MCV-88 MCH-29.6 MCHC-33.5 RDW-12.4 RDWSD-40.2 Plt ___
___ 12:04AM BLOOD Neuts-63.2 ___ Monos-6.5 Eos-2.1 
Baso-0.6 Im ___ AbsNeut-7.68* AbsLymp-3.32 AbsMono-0.79 
AbsEos-0.26 AbsBaso-0.07
___ 06:35AM BLOOD WBC-10.0 RBC-4.60 Hgb-13.5 Hct-41.7 
MCV-91 MCH-29.3 MCHC-32.4 RDW-12.7 RDWSD-41.5 Plt ___
___ 12:04AM BLOOD Glucose-105* UreaN-11 Creat-0.7 Na-142 
K-4.2 Cl-102 HCO3-27 AnGap-13
___ 06:35AM BLOOD Glucose-85 UreaN-11 Creat-0.7 Na-141 
K-4.3 Cl-102 HCO3-25 AnGap-14
___ 06:35AM BLOOD ALT-24 AST-19 AlkPhos-79 TotBili-0.4
___ 06:35AM BLOOD Calcium-9.5 Phos-4.9* Mg-2.1
___ 06:35AM BLOOD TSH-0.68
___ 06:35AM BLOOD HCG-<5
___ 12:04AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:08AM URINE Color-Straw Appear-Clear Sp ___
___ 12:08AM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:08AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-3
___ 12:08AM URINE UCG-NEGATIVE
___ 12:08AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Major depressive disorder, recurrent, moderate 
.
Ms. ___ is a ___ year old female, ___ at ___, with self 
reported depression and anxiety (on Paxil since ___, 
without prior psychiatric hospitalizations, without history of 
SA/SIB, who was brought in to the ___ ED by ___ campus police
after she expressed SI with plan while arguing with mother on 
the phone. Psychiatry was consulted for safety assessment. On 
admission, patient endorsed depressive symptoms including 
recurrent thoughts of death, worthlessness, loss of interest, 
and suicidal ideation with plan to jump in front of traffic in 
setting of psychosocial stressors. Patient reported anxiety 
regarding school work and class schedule that was causing 
significant distress and avoidance behaviors. Patient's 
presentation was found to be most consistent with a diagnosis of 
major depressive disorder, recurrent, moderate. Given partial 
response to Paxil, patient's home dose was increased to a total 
of 30 mg by mouth at bedtime. The patient found this dose to be 
helpful for her mood and did not report any side effects with 
this increase in dose. MSE on ___ notable for good mood, 
full-ranged mood-congruent affect, denial of SI, and good 
insight and judgment. In future, patient could benefit from 
further increases in her Paxil dose as necessary for mood. 
.
3. SUBSTANCE USE DISORDERS:
None
.
4. MEDICAL
# Continue treatment of folliculitis
-Patient's home medication of Mupirocin 2% TP BID was continued 
during her admission without further exacerbation of her 
illness. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was often present 
within milieu and interacted appropriately with peers and staff 
without ever requiring restraint or seclusion. 
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient's father was present for a family meeting with the 
treatment team to discuss diagnosis, treatment, and aftercare 
planning. The patient's mother was also present in this meeting 
via phone call. The patient and her family were provided the 
opportunity to ask any questions that they had regarding 
diagnosis and treatment, and they were generally supportive of 
the patient and plan. 
.
#) INTERVENTIONS
- Medications: increased dose of Paxil 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: provided the patient with 
post-discharge follow up appointments 
.
INFORMED CONSENT: Paroxetine 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of increasing the dose this 
medication, and risks and benefits of possible alternatives, 
including not taking the medication, with this patient.   We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team.  The patient appeared 
able to understand and consented to continuing the medication.

On ___, Ms. ___ reported:"I am doing well". She placed her 
mood at level 8 on scale from 0-the worst to 10-the best. She 
shared that she is anxious to resume school work. She was in 
touch with her professor who is supportive of her and is willing 
to make schedule adjustments. Ms. ___ is planning to continue with 
therapy. She plans to attend intake appt at ___. 
She also plans to see her PCP (Dr. ___ on ___.
She clearly denied S/H/I and shared about positive plans for 
future. She denied any physical complains. On medical ROS, 
denied pain/N/V/D/C.
She reflected on her experience with this hospital admission: 
adjustment of meds, having appt's with new providers and having 
family meeting was helpful to her.
Considering pt's improvement of condition and having follow up 
plan, we agreed that pt is ready for the discharge (___).
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her suicidal 
ideation with plan.  Her static factors noted at that time 
included her chronic mental illness, Caucasian race, and her 
age. She was also found to be at acutely elevated risk secondary 
to her suicidal ideation with plan, hopelessness, limited coping 
skills, lack of established outpatient psychiatrist or 
therapist, and recent personal loss. These risk factors were 
addressed via acute stabilization in a therapeutic milieu, 
medication adjustment, individual and group therapy, and 
aftercare planning. Finally, the patient is being discharged 
with many protective risk factors, including her female
gender, help-seeking behavior, consistent outpatient follow-up, 
medication compliance, no prior suicide attempts/self-injurious 
behavior, no chronic substance use, no access to lethal weapons, 
and her reality-testing ability. Overall, the patient is not at 
an acutely elevated risk of self-harm nor danger to others due 
to acutely decompensated psychiatric illness. Thus, I feel the 
patient does not meet section 12a criteria for risk of harm to 
self/others. 
.
Out prognosis for this patient is fair. It is likely to improve 
with ongoing outpatient treatment.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 20 mg PO QHS 
2. Mupirocin Ointment 2% 1 Appl TP BID folliculitis 
3. HydrOXYzine 25 mg PO DAILY:PRN anxiety/insomnia-mild 

 
Discharge Medications:
1.  PARoxetine 30 mg PO QHS 
2.  HydrOXYzine 25 mg PO DAILY:PRN anxiety/insomnia-mild 
3.  Mupirocin Ointment 2% 1 Appl TP BID folliculitis  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, moderate

 
Discharge Condition:
Vitals: 98.4; 124/85; 83; 16; 97% on RA.

Mental Status:
-Appearance: ___ year old woman appearing stated age, well
groomed, wearing casual clothing, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, no psychomotor
agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: 'Good'
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli

Overall, friendly, future oriented. Ms. ___ shared about 
positive plans for future. She would like to continue with her 
studies. She is motivated to continue with outpatient 
psychiatric treatment. She asked good questions about her 
condition and treatment plan. She reflected on her experiences 
with treatment.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___